US08609657B2
6-(1H-Indol-4-yl)-4-[5-(1-piperazinylmethyl)-1,3-oxazol-2-yl]-1H-indazole
1,1-Dimethylethyl 4-({2-[6-chloro-1-(phenylsulfonyl)-1H-indazol-4-yl]-1,3-oxazol-5-yl}methyl)-1-piperazinecarboxylate (303 mg, 0.543 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (172 mg, 0.706 mmol, available from Frontier Scientific), chloro[2′-(dimethylamino)-2-biphenylyl]palladium-(1R,4S)-bicyclo[2.2.1]hept-2-yl[(1S,4R)-bicyclo[2.2.1]hept-2-yl]phosphane (1:1) (30 mg, 0.054 mmol, available from Fluka) and tripotassium phosphate (346 mg, 1.629 mmol) were dissolved in 1,4-Dioxane (10 mL) and Water (2.5 mL). The reaction vessel was sealed and heated in Biotage Initiator microwave at 150° C. for 30 min. Aqueous 2M NaOH (5 ml) was then added and the mixture stirred for 2 hours. An additional portion of aqueous 2M NaOH (3 ml) was added and stirring continued until deprotection appeared complete by LCMS analysis. DCM was then added and the mixture was passed through a phase separator. The organic phase was collected. The aqueous phase was back extracted with DCM then the organic phases were combined and evaporated to give a brown oil. This was dissolved in 5 ml of 4M HCl in 1,4 dioxane and left stirring. The mixture was concentrated in vacuo and the resultant solid partitioned between DCM and 2M aqueous HCl. The aqueous phase was basified with 2M aqueous NaOH, then washed with DCM. The organic phase was concentrated in vacuo, then the residue dissolved in 2 ml DMSO/MeOH (1:1) and purified by MDAP (Method A). Combining appropriate fractions and concentrating by blow down under nitrogen at 40° C., afforded the title compound (43 mg).

reactant | 1,1-Dimethylethyl 4-({2-[6-chloro-1-(phenylsulfonyl)-1H-indazol-4-yl]-1,3-oxazol-5-yl}methyl)-1-piperazinecarboxylate | 0.543 mmol, 303 mg | ClC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=CN1)CN1CCN(CC1)C(=O)OC(C)(C)C | C26H28ClN5O5S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 0.706 mmol, 172 mg | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
reactant | tripotassium phosphate | 1.629 mmol, 346 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | NaOH | 2M, 5 ml | [OH-].[Na+]
reactant | NaOH | 2M, 3 ml | [OH-].[Na+]
solvent | 1,4-Dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | Water | 2.5 mL | O | H2O
solvent | HCl | 4M, 5 ml | Cl | ClH
catalyst | chloro[2′-(dimethylamino)-2-biphenylyl]palladium (1R,4S)-bicyclo[2.2.1]hept-2-yl[(1S,4R)-bicyclo[2.2.1]hept-2-yl]phosphane | 0.054 mmol, 30 mg | Cl[Pd]C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C.[C@@H]12C(C[C@@H](CC1)C2)PC2[C@H]1CC[C@@H](C2)C1
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-(1H-Indol-4-yl)-4-[5-(1-piperazinylmethyl)-1,3-oxazol-2-yl]-1H-indazole | 43 mg | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)C=1OC(=CN1)CN1CCNCC1 | C23H22N6O
